### PR TITLE
[Merged by Bors] - feat(MeasureTheory): add formula for Radon-Nikodym derivative of a convolution of measures

### PR DESCRIPTION
**Pull request by DavidLedvinka**
Add `rnDeriv_mconv` and `rnDeriv_mconv'` which give formulas (up to almost everywhere equality) for the Radon-Nikodym derivative of a convolution of measures in terms of the Radon-Nikodym derivatives of the individual measures. The theorems have different assumptions on the measures (which match the difference in the assumptions of `withDensity_eq_iff` and `withDensity_eq_iff_of_SigmaFinite`). 

Also add `mconv_absolutelyContinuous` which shows that absolute continuity is preserved under convolution of measures (with sufficient assumptions).

### CODE REVIEW

File: Mathlib/MeasureTheory/Group/Convolution.lean [hunk 1]
```diff
@@ -145,6 +145,20 @@ instance probabilitymeasure_of_probabilitymeasures_mconv (μ : Measure M) (ν :
     IsProbabilityMeasure (μ ∗ₘ ν) :=
   MeasureTheory.isProbabilityMeasure_map (by fun_prop)
 
+@[to_additive]
+theorem mconv_absolutelyContinuous [MeasurableMul₂ M] {μ ν ρ : Measure M}
+    [IsMulLeftInvariant ρ] [SFinite ν] (hν : ν ≪ ρ) : μ ∗ₘ ν ≪ ρ := by
+  refine AbsolutelyContinuous.mk (fun s hs h ↦ ?_)
+  rw [← lintegral_indicator_one hs, lintegral_mconv (by measurability)]
+  conv in s.indicator 1 (_ * _) => change s.indicator 1 ((fun y ↦ x * y) y)
+  simp [← Set.indicator_comp_right]
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Group/Convolution.lean]: This is a non-terminal simp. Please replace it with `simp only`

File: Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean [hunk 2]
```diff
@@ -520,4 +520,33 @@ lemma setIntegral_rnDeriv_smul' [SigmaFinite ν] (hμν : μ ≪ ν) (s : Set α
...
+@[to_additive]
+theorem rnDeriv_mconv [SFinite μ] (ν₁ ν₂ : Measure G) [IsFiniteMeasure ν₁] [IsFiniteMeasure ν₂]
+    [ν₁.HaveLebesgueDecomposition μ] [ν₂.HaveLebesgueDecomposition μ]
+    [(ν₁ ∗ₘ ν₂).HaveLebesgueDecomposition μ] (hν₁ : ν₁ ≪ μ) (hν₂ : ν₂ ≪ μ) :
+    (ν₁ ∗ₘ ν₂).rnDeriv μ =ᵐ[μ] (ν₁.rnDeriv μ) ⋆ₘₗ[μ] (ν₂.rnDeriv μ) := by
+  rw [← withDensity_eq_iff (by fun_prop) (by fun_prop),
+    withDensity_rnDeriv_eq _ _ (mconv_absolutelyContinuous hν₂),
+    ← mconv_withDensity_eq_mlconvolution (by fun_prop) (by fun_prop),
+    withDensity_rnDeriv_eq _ _ hν₁, withDensity_rnDeriv_eq _ _ hν₂]
+  exact (lintegral_rnDeriv_lt_top (ν₁ ∗ₘ ν₂) μ).ne
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Measure/Decomposition/RadonNikodym.lean]: - `(ν₁ ∗ₘ ν₂).HaveLebesgueDecomposition μ` can be deduced from the other hypotheses
- The two measures should be implicit arguments since they appear in the absolute continuity hypotheses (same remark for the lemma below)
```suggestion
@[to_additive]
theorem rnDeriv_mconv [SFinite μ] {ν₁ ν₂ : Measure G} [IsFiniteMeasure ν₁] [IsFiniteMeasure ν₂]
    [ν₁.HaveLebesgueDecomposition μ] [ν₂.HaveLebesgueDecomposition μ]
    (hν₁ : ν₁ ≪ μ) (hν₂ : ν₂ ≪ μ) :
    (ν₁ ∗ₘ ν₂).rnDeriv μ =ᵐ[μ] (ν₁.rnDeriv μ) ⋆ₘₗ[μ] (ν₂.rnDeriv μ) := by
  have h_eq : ν₁ ∗ₘ ν₂ = μ.withDensity (ν₁.rnDeriv μ ⋆ₘₗ[μ] ν₂.rnDeriv μ) := by
    rw [← mconv_withDensity_eq_mlconvolution (by fun_prop) (by fun_prop),
      withDensity_rnDeriv_eq _ _ hν₁, withDensity_rnDeriv_eq _ _ hν₂]
  have : (ν₁ ∗ₘ ν₂).HaveLebesgueDecomposition μ :=
    ⟨⟨0, (ν₁.rnDeriv μ) ⋆ₘₗ[μ] (ν₂.rnDeriv μ)⟩, by fun_prop, by simp, by simpa⟩
  rw [← withDensity_eq_iff (by fun_prop) (by fun_prop),
    withDensity_rnDeriv_eq _ _ (mconv_absolutelyContinuous hν₂), h_eq]
  exact (lintegral_rnDeriv_lt_top (ν₁ ∗ₘ ν₂) μ).ne
```

**Review by RemyDegenne — COMMENTED** [review]
Thanks!

**Comment by DavidLedvinka** [comment]
-awaiting-author

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
